US06960575B2
DL-Valine methyl ester hydrochloride (Reference compound No. 45-1)
Methanol (50 ml) is cooled to −15° C., then thionyl chloride (21.2 g) is added dropwise to the methanol, and the solution is stirred for 20 minutes. DL-Valine is added to the solution, and the mixture is stirred overnight. The reaction mixture is concentrated under reduced pressure, and diethyl ether is added to the resulting residue to precipitate crystals. The precipitated crystals are filtered off to give the titled reference compound (8.68 g).

reactant | thionyl chloride | 21.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | DL-Valine | NC(C(C)C)C(=O)O | C5H11NO2
reactant | methanol | CO | CH4O
reactant | Methanol | 50 ml | CO | CH4O
product | DL-Valine methyl ester hydrochloride | 8.68 g | Cl.COC(C(N)C(C)C)=O | InChI=1S/C6H13NO2.ClH/c1-4(2)5(7)6(8)9-3;/h4-5H,7H2,1-3H3;1H
